US09388161B2
Methyl (S)-6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized following the procedure for (5)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone substituting methyl chloroformate for acetyl chloride in Step 5 or from (2S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline following the procedure used for the synthesis of (2S)-6-bromo-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol, substituting methyl chloroformate for cyclopropanecarbonyl chloride. MS: (ES, m/z): 300, 302 [M+H]+

reactant | (5)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | (2S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline | COC1=C2CC[C@@H](NC2=CC=C1)C | C11H15NO
reactant | (2S)-6-bromo-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinolin-5-ol | BrC1=C(C=2CC[C@@H](N(C2C=C1)C(=O)C1CC1)C)O | C14H16BrNO2
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | Methyl (S)-6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)O | C12H14BrNO3
